US07105671B2
2-(3,4-Dichloro-phenyl)-3-[2-(tetrahydro-pyran-2-yloxy)-cyclopentyl]-propionic acid methyl ester (400 mg, 0.99 mmol) and methylurea (110.7 mg, 1.49 mmol) in a solution of magnesium methoxide in methanol (7.4 wt. %, 2.85 mL, 1.99 mmol) was heated under reflux at 110° C. for 6 h. The reaction mixture was then concentrated in vacuo and filtered through a plug of celite (ethyl acetate as eluent). Flash chromatography (Merck Silica gel 60, 230–400 mesh, 100% ethyl acetate) afforded 1-{2-(3,4-dichloro-phenyl)-3-[2-(tetrahydro-pyran-2-yloxy)-cyclopentyl]-propionyl}-3-methyl-urea (52 mg, 11.8%) as a white solid: mp 68–70° C.; FAB-HRMS m/e calcd for C21H28Cl2N2O4 (M+H)+ 443.1504, found 443.1499.

reactant | 2-(3,4-Dichloro-phenyl)-3-[2-(tetrahydro-pyran-2-yloxy)-cyclopentyl]-propionic acid methyl ester | 0.99 mmol, 400 mg | COC(C(CC1C(CCC1)OC1OCCCC1)C1=CC(=C(C=C1)Cl)Cl)=O | C20H26Cl2O4
reactant | methylurea | 1.49 mmol, 110.7 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 1.99 mmol, 2.85 mL | CO | CH4O
product | 1-{2-(3,4-dichloro-phenyl)-3-[2-(tetrahydro-pyran-2-yloxy)-cyclopentyl]-propionyl}-3-methyl-urea | 52 mg, 11.8% | ClC=1C=C(C=CC1Cl)C(C(=O)NC(=O)NC)CC1C(CCC1)OC1OCCCC1 | C21H28Cl2N2O4
